US07482366B2
(4-Bromo-2-chloro-phenyl)-acetonitrile (1.98 g, 8.6 mmoles) was dissolved into MeOH (50 mL) and water (5 mL), and the resulting homogeneous mixture was chilled to 0° C. To this stirring (cold) mixture was slowly (carefully) added concentrated HCl (25 mL). After the addition was complete the mixture was refluxed for 16 hours. After this period the reaction mixture was combined with ice and the resulting heterogeneous mixture was extracted with diethyl ether (3×50 mL). The combined ethereal layer was washed with brine, dried over anhydrous MgSO4, and evaporated in vacuo to yield clean (4-bromo-2-chloro-phenyl)-acetic acid methyl ester (2.3 g, 80%). 1H-NMR (CDCl3): δ 7.56 (d, J=2.0 Hz, 1H), 7.37 (dd, J′=8.3 Hz, J″=2.0 Hz, 1H), 7.16 (d, J=8.3 Hz, 1H), 3.73 (s, 2H), 3.72 (s, 3H).

reactant | (4-Bromo-2-chloro-phenyl)-acetonitrile | 8.6 mmoles, 1.98 g | BrC1=CC(=C(C=C1)CC#N)Cl | C8H5BrClN
reactant | MeOH | 50 mL | CO | CH4O
reactant | HCl | 25 mL | Cl | ClH
reactant | water | 5 mL | O | H2O
product | (4-bromo-2-chloro-phenyl)-acetic acid methyl ester | 2.3 g, 80% | COC(CC1=C(C=C(C=C1)Br)Cl)=O | C9H8BrClO2
